********************************************************************************
* CYFCT2541T.cir
* 2.0
* 2019-11-13 00:00:00
* Texas Instruments Incorporated.
* Standard Logic, SLHR
* 12500 TI Blvd
* Dallas, TX -75243
*
* Revision History:
* Rev 2.0: 01/01/2019
* - Model generated from datasheet values
* - Built using generic logic gate behavioral pspice model V2
* - Built using an automated model which generalizes parts under same family
* - Performance is expected typical behavior at 25C
* - Written for and tested with Tina-TI Version 9.3.100.244 SF-TI
* - Accurate power consumption with dyanmic as well as static Icc
*
********************************************************************************
*[Disclaimer]
* This model is designed as an aid for customers of Texas Instruments.
* TI and its licensors and suppliers make no warranties, either expressed
* or implied, with respect to this  model, including the warranties of
* merchantability or fitness for a particular purpose. The model is
* provided solely on an "as is" basis. The entire risk as to its quality
* and performance is with the customer.
*
*[Copyright]
*(C) Copyright 2019 Texas Instruments Incorporated.All rights reserved.
*
*
********************************************************************************
*                                 CYFCT2541T
********************************************************************************
 
.SUBCKT CY74FCT2541T Y A OEZ VCC AGND
XU1 Y A VCC OEZ VCC AGND LOGIC_GATE_2PIN_TRI_STATE_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
.ENDS 
 
 
 
 
.SUBCKT LOGIC_GATE_2PIN_TRI_STATE_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T OUT A B OEZ VCC GND
 
.PARAM VCC_ABS_MAX = 7 
.PARAM VCC_MAX = 5.5 
.PARAM RA = 22000000 
.PARAM RB = 22000000 
.PARAM CA = 1e-11 
.PARAM CB = 1e-11 
.PARAM ROEZ = 5500000 
.PARAM COEZ = 1.5e-11 
RA  A  GND {RA} 
RB  B  GND {RB} 
CA  A  GND {CA} 
CB  B  GND {CB} 
ROEZ OEZ GND {ROEZ} 
COEZ OEZ GND {COEZ} 
XUA NA A VCC GND LOGIC_INPUT_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
XUB NB B VCC GND LOGIC_INPUT_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
XUOEZ NOEZ OEZ VCC GND LOGIC_INPUT_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
XUG NA NB NOUTG VCC GND LOGIC_FUNCTION_2_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
XOUTPD NOUTG NOUTTPD VCC GND TPD_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
XUOUT NOUTTPD NOUT_INT NOEZ VCC GND LOGIC_TRI_STATE_OUTPUT_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
XICC VCC GND NVIOUT LOGIC_ICC_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T 
SICC VCC GND VCC GND SW1 
H1 NVIOUT GND VIOUT 1  
VIOUT NOUT_INT OUTsw 0  
SIOFF OUTsw OUT VCC GND SW2 
DA2 GND A D1 
DB2 GND B D1 
DO2 GND OUT D1 
DOE1 NOEZ VCC D1 
DOE2 GND OEZ D1 
RDA1 NA1 GND 1e6
SDA1 NA1 A VCC GND SW2
RDB1 NB1 GND 1e6
SDB1 NB1 B VCC GND SW2
RDO1 NO1 GND 1e6
SDO1 NO1 OUT VCC GND SW2
.MODEL SW1 VSWITCH VON = {VCC_ABS_MAX} VOFF = {VCC_MAX} RON = 10 ROFF = 60e6 
.MODEL SW2 VSWITCH VON = {0.55} VOFF = {0.45} RON = 10m ROFF = 100e6 
.MODEL D1 D 
.ENDS 
.SUBCKT LOGIC_INPUT_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T OUT IN VCC VEE
.PARAM STANDARD_INPUT_SELECT = 1 
 
.PARAM SCHMITT_TRIGGER_INPUT_SELECT = 0 
ESTD_THR VSTD_THR VEE TABLE {V(VCC,VEE)} = 
+(1,0.5) 
+(1.8,0.9) 
+(2.5,1.25) 
+(3.3,1.65) 
+(5,2.5) 
+(6,3) 
ETRP_P VTRP_P VEE TABLE {V(VCC,VEE)} = 
+(1.65,0.9) 
+(2.3,1.25) 
+(3,1.7) 
+(4.5,2.45) 
+(5.5,3) 
ETRP_N VTRP_N VEE TABLE {V(VCC,VEE)} = 
+(1.65,0.45) 
+(2.3,0.7) 
+(3,1.05) 
+(4.5,1.72) 
+(5.5,2.1) 
EHYST VHYST VEE TABLE {V(VCC,VEE)} = 
+(1.65,0.45) 
+(2.3,0.55) 
+(3,0.65) 
+(4.5,0.73) 
+(5.5,0.9) 
ETRUE NTRUE VEE VALUE = {V(VCC,VEE)} 
EFALSE NFALSE VEE VALUE = {0} 
EBETA BETA VEE VALUE = {V(VHYST,VEE)/(V(NTRUE,VEE) - V(NFALSE,VEE) + V(VHYST,VEE))} 
EFB NFB VEE VALUE = {(1 - V(BETA,VEE))*V(IN,VEE) + V(BETA,VEE)*V(CURR_OUT,VEE)} 
EREF NREF VEE VALUE = {0.5*(1 - V(BETA,VEE))*(V(VTRP_P,VEE) + V(VTRP_N,VEE))  
+ + 0.5*V(BETA,VEE)*(V(NTRUE,VEE) + V(NFALSE,VEE))} 
EDIFF NDIFF VEE VALUE = {V(NFB,NREF)} 
ESWITCH VSWITCH VEE VALUE = {0.5*(-SGN(V(NDIFF,VEE)) + ABS(SGN(V(NDIFF,VEE))))} 
ESWITCH1 VSWITCH1 VEE VALUE = {0.5*(SGN(V(NDIFF,VEE)) + ABS(SGN(V(NDIFF,VEE))))} 
GCOMP VEE CURR_OUT VALUE = {SCHMITT_TRIGGER_INPUT_SELECT*0.5*V(VCC,VEE)*(SGN(V(NDIFF,VEE)) + ABS(SGN(V(NDIFF,VEE))))} 
GSTD VEE CURR_OUT VALUE = {STANDARD_INPUT_SELECT*0.5*V(VCC,VEE)*(SGN(V(IN,VSTD_THR)) + ABS(SGN(V(IN,VSTD_THR))))} 
ROUT CURR_OUT VEE 1 
EMID MID VEE VALUE = {0.5*(V(VCC,VEE) + V(VEE))} 
EARG NARG VEE VALUE = {V(CURR_OUT,VEE) - V(MID,VEE)} 
EOUT OUT VEE VALUE = {0.5*(SGN(V(NARG,VEE)) + ABS(SGN(V(NARG,VEE) ) ) )} 
.PARAM MAXICC = 0.032 
.PARAM VT = .7 
.PARAM VCC_MIN = 4.5 
 
EV_VT1 VTN VEE VALUE = { VT } 
EV_VT2 VTP VEE VALUE = { V(VCC,VEE) - VT } 
 
ETEST TEST VEE VALUE = {.9*V(VCC,VEE)} 
 
EVTHDIFF VTH_DIFF VEE VALUE = {V(IN,VSTD_THR)} 
EVTHPDIFF VTHP_DIFF VEE VALUE = {V(IN,VTRP_P)} 
EVTHNDIFF VTHN_DIFF VEE VALUE = {V(IN,VTRP_N)} 
EVTNDIFF VTN_DIFF VEE VALUE = { V(IN,VTN) } 
EVTPDIFF VTP_DIFF VEE VALUE = { V(IN,VTP) } 
 
 
GICCVA VCC VEE VALUE = { (-ABS(( (1+SGN(V(VTN_DIFF,VEE)) ) )/2 -1) * 
+ 2*MAXICC*((V(IN,VEE)-VT)/V(VCC,VEE))^2)*(1 + SGN(V(VCC,VEE) - VCC_MIN))*V(VSWITCH,VEE)}
GICCVB VCC VEE VALUE = { (ABS(( (1+SGN(V(VTHP_DIFF,VEE)) ) )/2 -1) * 
+ 2*MAXICC*((V(IN,VEE)-VT)/V(VCC,VEE))^2)*(1 + SGN(V(VCC,VEE) - VCC_MIN))*V(VSWITCH,VEE)}
GICCVC VCC VEE VALUE = { ( ABS(  (1+SGN(V(VTHN_DIFF,VEE)) ) )/2  * 
+ 2*MAXICC*((V(IN,VEE)-(V(VCC,VEE)-VT))/V(VCC,VEE))^2)*(1 + SGN(V(VCC,VEE) - VCC_MIN))*V(VSWITCH1,VEE)}
GICCVD VCC VEE VALUE = { (-ABS(  (1+SGN(V(VTP_DIFF,VEE)) ) )/2  * 
+ 2*MAXICC*((V(IN,VEE)-(V(VCC,VEE)-VT))/V(VCC,VEE))^2)*(1 + SGN(V(VCC,VEE) - VCC_MIN))*V(VSWITCH1,VEE)}
 
.ENDS 
.SUBCKT LOGIC_FUNCTION_2_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T A B OUT VCC VEE
.PARAM AND  = 1 
.PARAM NAND = 0 
.PARAM OR   = 0 
.PARAM NOR  = 0 
.PARAM XOR  = 0 
.PARAM XNOR = 0 
GAND  VEE N1 VALUE = {AND*V(A,VEE)*V(B,VEE)} 
GNAND VEE N1 VALUE = {NAND*(1 - V(A,VEE)*V(B,VEE))} 
GOR   VEE N1 VALUE = {OR*(MIN(V(A,VEE) + V(B,VEE),1))} 
GNOR  VEE N1 VALUE = {NOR*(1 - MIN(V(A,VEE) + V(B,VEE),1))} 
GXOR  VEE N1 VALUE = {XOR*((1 - V(A,VEE))*V(B,VEE) + V(A,VEE)*(1 - V(B,VEE)))} 
GXNOR VEE N1 VALUE = {XNOR*(1 - ((1 - V(A,VEE))*V(B,VEE) + V(A,VEE)*(1 - V(B,VEE))))} 
RN1 N1 VEE 1 
EOUT OUT VEE N1 VEE 1 
.ENDS 
.SUBCKT TPD_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T IN OUT VCC VEE
.PARAM TPDELAY1 = 1N 
.PARAM RS = 10K 
.PARAM CS = {-TPDELAY1/(RS*LOG(0.5))} 
ETPDNORM NTPDNORM VEE TABLE {V(VCC,VEE)} = 
+(1.8,4.3) 
+(2.5,2.6) 
+(3.3,2.15) 
+(5,1.95) 
G1 IN N1 VALUE = {V(IN,N1)/(V(NTPDNORM,VEE)*RS)} 
RZ IN N1 10G 
C1 N1 VEE {CS} 
E1 N2 VEE VALUE = {0.5*(1 + SGN(V(N1,VEE) - 0.5))} 
EOUT OUT VEE N2 VEE 1 
.ENDS 
.SUBCKT LOGIC_TRI_STATE_OUTPUT_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T IN OUT OEZ VCC VEE
EROH NROH VEE TABLE {V(VCC,VEE)} = 
+(1.65,900) 
+(2.3,200) 
EROL NROL VEE TABLE {V(VCC,VEE)} = 
+(1.65,900) 
+(2.3,300) 
EOEZ N2 VEE VALUE = {1 - V(OEZ,VEE)} 
E1 N1 VEE VALUE = {V(VCC,VEE)*V(IN,VEE)*V(N2,VEE)} 
GOUT N1 OUT VALUE = {V(N1,OUT)*V(N2,VEE)*(V(IN,VEE)/V(NROH,VEE) + (1 - V(IN,VEE))/V(NROL,VEE))} 
LOUT N1 OUT .1n 
ROUT OUT VEE 1E8 
.ENDS 
.SUBCKT LOGIC_ICC_LVC_1i_AND_Tristate_CMOS_CY74FCT2541T VCC VEE VIOUT
.PARAM ICC = 2e-05 
.PARAM VCC_MAX = 5.5 
.PARAM VCC_MIN = 4.5 
GICC VCC VEE VALUE = {ICC*0.5*(1 + SGN(V(VCC,VEE) - VCC_MIN))} 
EGNDF GNDF 0 VALUE = {0.5*(V(VCC) + V(VEE))} 
GOUTP VCC GNDF VALUE = {V(VIOUT,VEE)*0.5*(SGN(V(VIOUT,VEE)) + ABS(SGN(V(VIOUT,VEE))))} 
GOUTN GNDF VEE VALUE = {V(VIOUT,VEE)*0.5*(SGN(V(VIOUT,VEE)) + ABS(SGN(V(VIOUT,VEE))))} 
.ENDS 
